US08168673B2
To a solution of 4-(cyclohexylthio)benzaldehyde (215 mg, 0.976 mmol) in methanol (4 mL) was added trimethylorthoformate (130 μL, 1.19 mmol) and p-toluenesulfonic acid (15 mg, 0.079 mmol), and the resulting solution stirred at room temperature for 72 hours. Sodium methoxide solution (25 wt %, 18 μL) was then added to the solution, and the volatiles removed in vacuo to afford crude cyclohexyl(4-(dimethoxymethyl)phenyl)sulfane (˜265 mg, quantitative yield) which was used directly without further purification.

reactant | 4-(cyclohexylthio)benzaldehyde | 0.976 mmol, 215 mg | C1(CCCCC1)SC1=CC=C(C=O)C=C1 | C13H16OS
reactant | trimethylorthoformate | 1.19 mmol, 130 μL | COC(OC)OC | C4H10O3
reactant | Sodium methoxide | 18 μL | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
catalyst | p-toluenesulfonic acid | 0.079 mmol, 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | cyclohexyl(4-(dimethoxymethyl)phenyl)sulfane | ˜265 mg, quantitative yield | C1(CCCCC1)SC1=CC=C(C=C1)C(OC)OC | C15H22O2S
